US07727988B2
3-[5-(3-Methyl-thiophen-2-yl)-2,4-dioxo-3,4-dihydro-2H-pyrimidin-1-yl]-propionaldehyde (Prep29)
1-(3-Hydroxy-propyl)-5-(3-methyl-thiophen-2-yl)-1H-pyrimidine-2,4-dione (Prep 28.36 mg, 0.13 mmol) was dissolved in dry THF (5 mL), the solution was cooled to 0° C. and then Dess-Martin periodinane (97 mg, 0.22 mmol) was added under nitrogen. The mixture was stirred at room temperature for 1.5 hours. Ethyl acetate was added and the solution was washed with aqueous saturated NaHCO3 solution. The organic phase was dried (Na2SO4) and evaporated. The crude was purified by flash chromatography with ethyl acetate-petroleum ether (7-3) to give 17 mg of the title compound (50% yield).

reactant | 1-(3-Hydroxy-propyl)-5-(3-methyl-thiophen-2-yl)-1H-pyrimidine-2,4-dione | 0.13 mmol, 28.36 mg | OCCCN1C(NC(C(=C1)C=1SC=CC1C)=O)=O | C12H14N2O3S
reactant | Dess-Martin periodinane | 0.22 mmol, 97 mg | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 3-[5-(3-Methyl-thiophen-2-yl)-2,4-dioxo-3,4-dihydro-2H-pyrimidin-1-yl]-propionaldehyde | 17 mg, 50% yield | CC1=C(SC=C1)C=1C(NC(N(C1)CCC=O)=O)=O | C12H12N2O3S
